* C:\Users\varsh\OneDrive\Desktop\es17btech11009.asc
XU1 N001 N002 Vcc -Vcc Vout LM741/NS
R1 N001 0 2000
R2 Vout N001 2000
R3 N002 N003 2000
R4 Vout N002 1818.18
C1 N002 0 0.001
V1 Vcc 0 15
V2 0 -Vcc 15
V3 N003 0 SINE(0 1 0.159)
.tran 0 150 0 0.01
.include LM741.MOD
.control
run
plot V(Vout)
.end
